Lab 2, Exercise 2, ECE 3410
    ***************************
    * By Chris Winstead
    ***************************

    * Include the model file:
    .include ../../lab_parts.md

    *===== CIRCUIT DESCRIPTION ======
    * Power supplies:
    VDD ndd 0 DC 15V
    VSS nss 0 DC -15V

    * The input voltage sources
    V1 n1 0 DC 1V
    V2 n2 0 DC 0V AC 1 SIN(0V 0.5V 50kHz)

    * Resistors
    R1 n1 nn 10k
    R2 n3 nn 5k
    RF nn nout 10k
    C1 n2 n3 10n

    * Op Amp Model
    X1 0 nn ndd nss nout uA741

    *================================
    * CONTROL COMMANDS:
    *================================
    .control

        * Declare some variables to store results in:
        let ofs_1=unitvec(6)
        let ofs_2=unitvec(6)
        let ofs_out=unitvec(6)
        let idx=0

        * Automate a batch of simulations:

        *----- START OF LOOP ----*
        foreach vo1 1 2
            foreach vo2 0.5 1.0 1.5

                * Alter V1 and V2:
                alter V1 DC $vo1
                alter @V2[sin] = [ $vo2 0.5 50k ]
                * ^^^Quirk: make sure to put spaces around
                * the brackets in the alter statement

                * Do a transient simulation
                tran 1u 100u
                plot v(n2) v(nout)
                hardcopy circuit2_vn2.ps v(n2)
                hardcopy circuit2_vnout.ps v(nout)

                * Measure the output offset:
                meas tran ofs1 AVG v(nout)

                * Record results from this simulation:
                let ofs_1[idx]=$vo1
                let ofs_2[idx]=$vo2
                let ofs_out[idx]=ofs1

                * Increment the loop index:
                let idx=idx+1
            end
        end
        *----- END OF LOOP ----*

        *----- AC SIMULATION -----*
        ac dec 100 1 1e6

        plot vdb(nout)-vdb(n2)
        hardcopy circuit2_vdbnout-vdbn2.ps vdb(nout)-vdb(n2)

        meas ac Av0  FIND vdb(nout) AT=10k
        let A3dB=Av0-3
        print A3dB

        meas ac fhigh WHEN vdb(nout)=$&A3dB FALL=LAST
        meas ac flow  WHEN vdb(nout)=$&A3dB RISE=1
        meas ac ft    WHEN vdb(nout)=0

        * Print out the reults:
        print ofs_1 ofs_2 ofs_out

    .endc

.end
